US04211726
9,10-Anthracenedicarboxaldehyde
To a solution of 1.20 g. of 10-hydroxymethyl-9-anthracenecarboxaldehyde in a mixture of 14 ml. of triethylamine and 20 ml. of dry dimethylsulfoxide is added a solution of 4.80 g. of sulfur trioxide pyridine complex in 25 ml. of dry dimethylsulfoxide. The mixture is stirred for 50 minutes and then poured into 200 ml. of water. The crystals are collected and washed with water, giving 1.18 g. of the desired product as orange crystals, mp. 224°-245° C.

reactant | 10-hydroxymethyl-9-anthracenecarboxaldehyde | OCC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C16H12O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 9,10-Anthracenedicarboxaldehyde | C1=CC=CC2=C(C3=CC=CC=C3C(=C12)C=O)C=O | C16H10O2
